US08492582B2
Ethylene glycol dimethyl ether (1.4 mL), water (0.42 mL), phenylboranic acid (0.045 g), sodium bicarbonate (0.063 g), and bis(triphenylphosphine)palladium(II) dichloride (4 mg) were added to tert-butyl 2-(2-acetoxy-5-bromobenzamido)-4-phenylbenzoate (0.15 g), followed by heating to reflux under a nitrogen atmosphere for 45 minutes. The reaction mixture was cooled to room temperature, and potassium carbonate (0.12 g) was added thereto, followed by stirring under a nitrogen atmosphere at room temperature for 2 hours. Water and ethyl acetate were added to the reaction mixture. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. Methanol (2 mL), dioxane (4 mL), and a 2 mol/L aqueous solution of sodium hydroxide (1.5 mL) were added to the obtained residue, followed by stirring at room temperature for 1 hour and 40 minutes. The solvent was evaporated under reduced pressure, and 1 mol/L hydrochloric acid and ethyl acetate were added to the residue. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [Kanto Chemical Co., Inc., silica gel 60 (spherical), eluent: 95-80% hexane/ethyl acetate] and further purified by silica gel column chromatography [eluent: chloroform] to obtain 0.086 g of tert-butyl 2-(2-hydroxy-5-phenylbenzamido)-4-phenylbenzoate as a white solid.

reactant | phenylboranic acid | 0.045 g | C1(=CC=CC=C1)OB=O | C6H5BO2
reactant | sodium bicarbonate | 0.063 g | C([O-])(O)=O.[Na+]
reactant | tert-butyl 2-(2-acetoxy-5-bromobenzamido)-4-phenylbenzoate | 0.15 g | C(C)(=O)OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)Br | C26H24BrNO5
reactant | potassium carbonate | 0.12 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 4 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | Water | O | H2O
solvent | water | 0.42 mL | O | H2O
solvent | Ethylene glycol dimethyl ether | 1.4 mL | COCCOC | C4H10O2
product | tert-butyl 2-(2-hydroxy-5-phenylbenzamido)-4-phenylbenzoate | 0.086 g | OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)C1=CC=CC=C1 | C30H27NO4
